US07662771B2
5-[5-(5-Chloro-2-hydroxy-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester
Dissolve 5-[5-(5-chloro-2-methoxy-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester (4.174 g, 12.89 mmol) in 50 mL of CH2Cl2 and cool the solution to −78° C. Add boron tribromide (48.9 mL of a 1M solution in CH2Cl2) dropwise to the reaction and allow it to warm to ambient temperature and allow it to stir for 27 hours. Cool the reaction to −78° C. and quench it by adding 100 mL of MeOH dropwise to the reaction mixture. Allow the reaction to warm to ambient temperature and stir for 19 hours. Concentrate the reaction mixture in vacuo. Dissolve the residue in CH2Cl2 and wash it with saturated aqueous NaHCO3 and brine. Dry the organic layer with MgSO4. Filter off the drying agent and concentrate in vacuo to afford a crude residue. Purify the residue using silica gel chromotagraphy eluting with hexanes/ethyl acetate mixtures to afford 3.26 g of the titled product (82%): mass spectrum: m/z=310.09 (M+H).

reactant | 5-[5-(5-chloro-2-methoxy-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester | 12.89 mmol, 4.174 g | COC(CCCCC=1OC(=CN1)C1=C(C=CC(=C1)Cl)OC)=O | C16H18ClNO4
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-[5-(5-Chloro-2-hydroxy-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester | 3.26 g, 82% | COC(CCCCC=1OC(=CN1)C1=C(C=CC(=C1)Cl)O)=O | C15H16ClNO4
